US07160912B2
2-(2,6-Difluoro-4-nitro-phenylamino)-acetamide
To a stirred solution of glycinamide hydrochloride (45 g, 407 mmol) in DMF (500 mL) was added successively triethylamine (197 mL, 1.43 mol) followed by 3,4,5-trifluronitrobenzene (72 g, 407 mmol) at room temperature over 15 min. The reaction mixture was heated to 80° C. overnight and then allowed to cool to room temperature. Ice pieces suspended in water were added to the reaction mixture and the solid obtained was filtered. The solid was dried to afford title compound (62 g, 67%) that was taken up directly for the next step without further purification. Mp 160–162° C.

reactant | glycinamide hydrochloride | 407 mmol, 45 g | Cl.NCC(=O)N
reactant | triethylamine | 1.43 mol, 197 mL | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trifluronitrobenzene | 407 mmol, 72 g | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2,6-Difluoro-4-nitro-phenylamino)-acetamide | 62 g, 67% | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)NCC(=O)N | C8H7F2N3O3
